US04673429
21.3 g of propargyl bromide are added to 15 g of 1-hydroxypyrazole and 15 g of sodium carbonate in 200 g of acetonitrile at 25° C., while stirring. Stirring is continued for 12 hours, after which the mixture is filtered under suction, the residue is washed with 100 g of acetonitrile, and the combined liquids are evaporated down in a rotary evaporator at 40° C. and under 20 mbar. The residue obtained in this procedure is dissolved in 200 g of dichloromethane, the solution is extracted 3 times with a total of 200 g of saturated aqueous sodium bicarbonate solution, and the organic phase is dried with magnesium sulfate and evaporated down. 15 g (70% of theory) of 1-pyrazolyl propargyl ether are obtained as an oil (H1 -NMR, δ in ppm: 2.6, t, 1H; 4.9, d, 2H; 6.2, m, 1H; 7.4, m, 2H). This substance is Example 10 in the Table below.

reactant | propargyl bromide | 21.3 g | C(C#C)Br | C3H3Br
reactant | 1-hydroxypyrazole | 15 g | ON1N=CC=C1 | C3H4N2O
reactant | sodium carbonate | 15 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 200 g | C(C)#N | C2H3N
solvent | dichloromethane | 200 g | ClCCl | CH2Cl2
product | 1-pyrazolyl propargyl ether | 15 g, 70% | C(C#C)ON1N=CC=C1 | C6H6N2O
